US05073646
3.9 g (10 mmol) of 1-diphenylmethyl-3-methyl-3-[N-(ethyl)trifluoroacetylaminomethyl]azetidine in 20 ml of 5% strength sodium hydroxide and 20 ml of ethanol are stirred for one hour at 70° C. The solution is cooled, brought to pH 8 with hydrochloric acid, acidified with acetic acid and evaporated, the residue is extracted with chloroform, the organic phase is dried with anhydrous sodium sulphate, the solvent is evaporated off and 2.5 g (85%) of 1-diphenylmethyl-3-ethylaminomethyl-3-methylazetidine are obtained.

reactant | 1-diphenylmethyl-3-methyl-3-[N-(ethyl)trifluoroacetylaminomethyl]azetidine | 10 mmol, 3.9 g | C1(=CC=CC=C1)C(N1CC(C1)(CN(CC)C(C(F)(F)F)=O)C)C1=CC=CC=C1 | C22H25F3N2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethanol | 20 ml | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-diphenylmethyl-3-ethylaminomethyl-3-methylazetidine | 2.5 g, 85% | C1(=CC=CC=C1)C(N1CC(C1)(C)CNCC)C1=CC=CC=C1 | C20H26N2
